US07034039B2
A solution of tert-butyl(6-amino-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (synthesized according to the method similar to that in Example 82 (2)) (0.21 g, 0.5 mmol) and acetyl chloride (0.04 ml, 0.6 mmol) in N,N-dimethylacetamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl{6-(acetylamino)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.19 g, 80.8%) as crystals.

reactant | tert-butyl(6-amino-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N)=O)CC(C)C)=O | C23H35N3O4
reactant | acetyl chloride | 0.6 mmol, 0.04 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | tert-butyl{6-(acetylamino)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.19 g, 80.8% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)NC(C)=O)=O)CC(C)C)=O | C25H37N3O5
